US08049016B2
Synthesis of (S)-2-(3-(4-Fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
To a solution of (S)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid (0.11 g, 0.30 mmol) in anhydrous tetrahydrofuran (3.0 mL) was added 1-hydroxybenzotriazole (HOBt) (0.08 g, 0.60 mmol), 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (TBTU) (0.19 g, 0.60 mmol), N,N-diisopropylethylamine (0.23 g, 1.80 mmol) and pyridin-3-ylmethanamine (0.05 g, 0.45 mmol). The resulting mixture was stirred at ambient temperature for 16 h and concentrated in vacuo. The residue was diluted in ethyl acetate (100 mL), washed with saturated aqueous sodium bicarbonate solution (20 mL), dried over anhydrous sodium sulphate and filtered. The filtrate was concentrated in vacuo and the residue was purified by column chromatography eluted with 2-8% methanol in dichloromethane to afford the title compound as a colorless solid (0.09 g, 70%): mp 67-70° C. (hexanes/diethyl ether); 1H NMR (300 MHz, DMSO-d6) δ 8.57 (t, J=5.9 Hz, 1H), 8.53 (d, J=1.9 Hz, 1H), 8.45 (dd, J=4.8, 1.5 Hz, 1H), 7.72-7.69 (m, 1H), 7.40-7.34 (m, 3H), 7.18 (dd, J=8.8, 8.8 Hz, 2H), 4.59 (d, J=15.6 Hz, 1H), 4.40 (d, J=5.9 Hz, 2H), 4.30 (d, J=15.6 Hz, 1H), 4.19 (dd, J=10.1, 9.1 Hz, 1H), 3.80-3.69 (m, 1H), 3.55 (dd, J=10.1, 6.2 Hz, 1H), 2.47 (s, 3H), 1.22 (d, J=6.2 Hz, 3H); 13C NMR (75 MHz, DMSO-d6) δ161.5 (d, 1JC-F=244 Hz), 161.8, 157.2, 154.9, 151.2, 148.8, 148.0, 135.1, 135.1, 133.1 (d, 4JC-F=3 Hz), 130.0 (d, 3JC-F=8 Hz), 123.5, 117.6, 115.4 (d, 2JC-F=21 Hz), 49.4, 48.6, 43.7, 40.4, 18.4, 17.1; MS (ES+) m/z 439.9 (M+1).

reactant | (S)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | 0.30 mmol, 0.11 g | FC1=CC=C(CN2C(N(C[C@@H]2C)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C16H16FN3O3S
reactant | 1-hydroxybenzotriazole | 0.60 mmol, 0.08 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.60 mmol, 0.19 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 1.80 mmol, 0.23 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | pyridin-3-ylmethanamine | 0.45 mmol, 0.05 g | N1=CC(=CC=C1)CN | C6H8N2
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
product | (S)-2-(3-(4-Fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 0.09 g, 70% | FC1=CC=C(CN2C(N(C[C@@H]2C)C=2SC(=C(N2)C)C(=O)NCC=2C=NC=CC2)=O)C=C1 | C22H22FN5O2S
